US07855218B2
Description D74: methyl (2S)-5-(4-bromophenyl)-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-4-pentynoate (D74)
A solution of methyl (2S)-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-4-pentynoate (D64, 1.020 g, 4.49 mmol), prepared by an analogous procedure to the one described hereinabove, 4-Iodo-bromobenzene (1.524 g, 5.38 mmol), diethylamine (2.28 ml, 1.62 g, 22.12 mmol), CuI (84 mg, 0.441 mmol) and Pd(PPh3)2Cl2 (156 mg, 0.22 mmol) in diethyl ether (10 ml) was stirred at room temperature for 24 h. Ethyl acetate was added and the organic layer was washed with aqueous ammonium chloride solution, dried (Na2SO4), filtered and evaporated under vacuum. The residue was purified via flash chromatography using a gradient of cyclohexanes and ethyl acetate (98:2 to 80:20) to afford the title compound (1.199 g, 69%). MS: (ES/+) m/z: 404, 406 [MH+], C17H20BrNO4 requires 404. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 7.56 (d, 1H), 7.45 (d, 1H), 7.32 (d, 1H), 4.30 (m, 1H), 3.67 (s, 3H), 2.82 (m, 2H), 1.40 and 1.38 (2xs, 9H).

reactant | methyl (2S)-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-4-pentynoate | 4.49 mmol, 1.020 g | CC(C)(C)OC(=O)N[C@H](C(=O)OC)CC#C | C11H17NO4
reactant | 4-Iodo-bromobenzene | 5.38 mmol, 1.524 g | IC1=CC=C(C=C1)Br | C6H4BrI
reactant | diethylamine | 22.12 mmol, 2.28 ml, 1.62 g | C(C)NCC | C4H11N
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
catalyst | CuI | 0.441 mmol, 84 mg | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 0.22 mmol, 156 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl (2S)-5-(4-bromophenyl)-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-4-pentynoate | 1.199 g, 69% | BrC1=CC=C(C=C1)C#CC[C@@H](C(=O)OC)NC(=O)OC(C)(C)C | C17H20BrNO4
